US07642264B2
2-(3-Bromo-phenyl)-4-(4-chloro-phenyl)-6-trifluoromethyl-pyridine
The title compound was prepared from 4-(4-chloro-phenyl)-2-iodo-6-trifluoromethyl-pyridine (example A.50) (9 g, ca. 35% pure, ca. 8.2 mmol) and commercially available 3-bromo-benzene-boronic acid (1.80 g, 9 mmol) according to the general procedure IVb. Obtained as a white solid (1.7 g, 50%). MS (ISP) 412.0 [(M+H)+], 414.1 [(M+2+H)+] and 416.1 [(M+4+H)+].

reactant | 4-(4-chloro-phenyl)-2-iodo-6-trifluoromethyl-pyridine | ca. 8.2 mmol, 9 g | ClC1=CC=C(C=C1)C1=CC(=NC(=C1)C(F)(F)F)I | C12H6ClF3IN
reactant | 3-bromo-benzene-boronic acid | 9 mmol, 1.80 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-(4-chloro-phenyl)-6-trifluoromethyl-pyridine | BrC=1C=C(C=CC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)Cl)C(F)(F)F | C18H10BrClF3N
